US07361763B2
A mixture of 5-bromo-3-(1-cyclopentyl-2-methoxy-vinyl)-pyridin-2-ylamine (116.9 mg, 0.39 mmol) and perchloric acid (0.1 mL) in dioxane (1 mL) was heated at 80° C. for 2 hrs. Solvents were evaporated and the residue was washed with a solution of 2M sodium carbonate (5 mL). A precipitate was formed and filtered off. It was washed with water and dried to afford the product 5-bromo-3-cyclopentyl-1H-pyrrolo[2,3-b]pyridine (69.8 mg, 67% yield) as a brown solid. MS: m/z 265/266 [MH+].

reactant | 5-bromo-3-(1-cyclopentyl-2-methoxy-vinyl)-pyridin-2-ylamine | 0.39 mmol, 116.9 mg | BrC=1C=C(C(=NC1)N)C(=COC)C1CCCC1 | C13H17BrN2O
reactant | perchloric acid | 0.1 mL | Cl(=O)(=O)(=O)O | ClHO4
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 5-bromo-3-cyclopentyl-1H-pyrrolo[2,3-b]pyridine | 69.8 mg, 67% yield | BrC=1C=C2C(=NC1)NC=C2C2CCCC2 | C12H13BrN2
